US05431842
To a solution of o-aminophenylboronic acid (13.7 g, 100 mmoles) in dichloromethane (200 ml) is added ethylene glycol (6.30 g, 102 mmoles). The solution is shaken for 20 minutes, and then stirred over solid sodium sulfate. Removal of the volatiles affords ethylene o-aminophenylboronate. To a flame dried three neck round bottom flask equipped with septum, stopper and gas inlet, is added ethylene o-aminophenylboronate (0.36 g, 2.20 mmoles) in dry dimethylformamide (10 ml). To this solution is added Z-Gly-Ala (0.62 g, 2.21 mmoles), triethylamine (0.62 ml, 4.45 mmoles), and finally diethyl cyanophosphonate (0.37 ml, 2.44 mmoles). After stirring the reaction at room temperature for 17 hours, the DMF is removed under reduced pressure. The remaining residue is dissolved in ethyl acetate, and washed sequentially with 10% HCl, saturated sodium bicarbonate, and brine. After drying the organic phase over magnesium sulfate, the salts are removed by filtration and filtrate concentrated in vacuum to leave (0.63 g) of Z-Gly-Ala-o- aminophenylboronic acid. This compound can be used "as is" in the present invention, or the benzyloxycarbonyl (Z) group can be removed by hydrogenolysis (see first step of Example 4).

reactant | ethylene o-aminophenylboronate | 2.20 mmoles, 0.36 g | NC1=C(C=CC=C1)B1OCCO1 | C8H10BNO2
reactant | Z-Gly-Ala | 2.21 mmoles, 0.62 g | N(CC(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H16N2O5
reactant | triethylamine | 4.45 mmoles, 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 2.44 mmoles, 0.37 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Z-Gly-Ala o- aminophenylboronic acid | 0.63 g | N(CC(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1.NC1=C(C=CC=C1)B(O)O | InChI=1S/C13H16N2O5.C6H8BNO2/c1-9(12(17)18)15-11(16)7-14-13(19)20-8-10-5-3-2-4-6-10;8-6-4-2-1-3-5(6)7(9)10/h2-6,9H,7-8H2,1H3,(H,14,19)(H,15,16)(H,17,18);1-4,9-10H,8H2/t9-;/m0./s1
